US06660744B1
A suspension of 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (3.0 g, 11.5 mmol) in dimethylformamide (50 mL) was treated with cesium carbonate (5.62 g, 17.25 mmol) and triphenylmethyl chloride (3.85 g, 13.8 mmol). The reaction mixture was stirred at 70° C. for 22.5 h under a nitrogen atmosphere. Cesium carbonate (3.75 g, 11.5 mmol) and triphenylmethyl chloride (3.2 g, 11.5 mmol) were added to the reaction mixture and was stirred for 6.5 h. The reaction mixture was added to ice water. The precipitate was filtered and washed with water. The product, 3-iodo-1-trityl-1H-pyrazolo[3,4-d]pyrimidin-4-amine, was dried over night on the lyophilizer. The resulting solid was triturated with ethyl acetate to give 3.05 g (53%) of 3-iodo-1-trityl-1H-pyrazolo[3,4-d]pyrimidin-4-amine. 1H NMR (DMSO-d6, 400 MHz) δ 7.3190-7.1106 (m, 16H); TLC (Baker Pre-coated Hard Layer Silica Gel TLC plates, Si250F254, 30% Ethyl acetate in heptane) Rf=0.33.

reactant | 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 11.5 mmol, 3.0 g | IC1=NNC2=NC=NC(=C21)N | C5H4IN5
reactant | cesium carbonate | 17.25 mmol, 5.62 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | triphenylmethyl chloride | 13.8 mmol, 3.85 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | Cesium carbonate | 11.5 mmol, 3.75 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | triphenylmethyl chloride | 11.5 mmol, 3.2 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 3-iodo-1-trityl-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 3.05 g, 53% | IC1=NN(C2=NC=NC(=C21)N)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C24H18IN5
